US04689339
1-(2,3-Dihydro-2-methyl-1H-inden-2-yl)ethanone (3.69 g) in methylene chloride (40 ml) is stirred and cooled at 10° C. during the dropwise addition of bromine (2.82 g)/methylene chloride (10 ml). Work-up of the resultant solution gives 2-bromo-1-(2,3-dihydro-2-methyl-1H-inden-2-yl)ethanone.

reactant | 1-(2,3-Dihydro-2-methyl-1H-inden-2-yl)ethanone | 3.69 g | CC1(CC2=CC=CC=C2C1)C(C)=O | C12H14O
reactant | bromine | 2.82 g | BrBr | Br2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-bromo-1-(2,3-dihydro-2-methyl-1H-inden-2-yl)ethanone | BrCC(=O)C1(CC2=CC=CC=C2C1)C | C12H13BrO
